US04742063
Three point seven (3.7) grams of 2-amino-5-hexylthio-1,3,4-thiadiazole, 3.4 g of ethyl benzoylacetate and 5 g of polyphosphoric acid were mixed and stirred at 130°-140° C. for 30 minutes. After cooling, chloroform and water were added to the mixture and extraction was carried out. The organic layer was washed with a sodium hydrogen carbonate aqueous solution and water respectively and dried over anhydrous sodium sulfate. The solvent was distilled off and thus 5.5 g of 2-hexylthio-7-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 99%. This substance was recrystallized from ethanol and the purified compound showed a m.p. of 90°-91° C.

reactant | 2-amino-5-hexylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCCCCCC | C8H15N3S2
reactant | ethyl benzoylacetate | 3.4 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-hexylthio-7-phenyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 5.5 g, Yield 99% | C(CCCCC)SC1=NN2C(=NC(=CC2=O)C2=CC=CC=C2)S1 | C17H19N3OS2
